US03983246
Eight and one-half grams of 4-methylbenzohydroximoyl chloride, prepared as in Example VI-A, was treated with 7.1 g of propanesulfonyl chloride in the same manner as described in Example VI-B. Recrystallization of the oil from ethanol gave 8.1 g of N-(propanesulfonyloxy)-4-methylbenzimidoyl chloride, m.p. 57.5°-60.5°. The ir spectrum was consistent with the assigned structure.

reactant | 4-methylbenzohydroximoyl chloride | CC1=CC=C(C(=NO)Cl)C=C1 | C8H8ClNO
reactant | propanesulfonyl chloride | 7.1 g | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | N-(propanesulfonyloxy)-4-methylbenzimidoyl chloride | 8.1 g | C(CC)S(=O)(=O)ON=C(C1=CC=C(C=C1)C)Cl | C11H14ClNO3S
